US06777414B1
Ethyl 2-methyl-5-piperazinylbenzoate (1.8 g, 9.1 mmol) was dissolved in 20 ml of anhydrous DMF. Potassium carbonate (1.7 g) and 3-[9-(2,2,2-trifluoroethylcarbamoyl)-9H-fluoren-9-yl]propyl bromide (2.5 g, 6.1 mmol) were added to the solution, and the mixture was stirred at 75° C. for 7 hr. The temperature of the reaction solution was returned to room temperature, and the reaction solution was then diluted with ethyl acetate. The dilution was washed twice with water and was then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography (development system, n-hexane:ethyl acetate=2:1) to give 2.1 g (yield 59%) of ethyl 5-[4-[3-[9-(2,2,2-trifluoroethylcarbamoyl)-9H-fluoren-9-yl]propyl]piperazinyl]-2-methylbenzoate as a pale yellow foam.

reactant | Ethyl 2-methyl-5-piperazinylbenzoate | 9.1 mmol, 1.8 g | CC1=C(C(=O)OCC)C=C(C=C1)N1CCNCC1 | C14H20N2O2
reactant | Potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-[9-(2,2,2-trifluoroethylcarbamoyl)-9H-fluoren-9-yl]propyl bromide | 6.1 mmol, 2.5 g | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCBr)(F)F | C19H17BrF3NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 5-[4-[3-[9-(2,2,2-trifluoroethylcarbamoyl)-9H-fluoren-9-yl]propyl]piperazinyl]-2-methylbenzoate | 2.1 g, yield 59% | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCN1CCN(CC1)C=1C=CC(=C(C(=O)OCC)C1)C)(F)F | C33H36F3N3O3
